US04072688
Preparation of 2-α -naphthyl-3-chloroacetyl oxazolidine.
Nineteen and nine tenths ml. of a benzene solution containing 5 g. of 2-α -naphthyl oxazolidine was combined with 50 ml. of benzene and 2.8 g. of chloroacetyl chloride. To this was added 2.6 g. of triethylamine, dropwise with stirring in an ice bath. The mixture was stirred at room temperature for 30 minutes after addition was complete, washed with water, separated and dried over magnesium sulfate. The solvent was stripped under vacuum. There was obtained a yield of 6.7 g. of an oil, the title compound, ND30 = 1.6030.

reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | 2-α -naphthyl oxazolidine | C1(=CC=CC2=CC=CC=C12)C1OCCN1 | C13H13NO
reactant | chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-α -naphthyl-3-chloroacetyl oxazolidine | C1(=CC=CC2=CC=CC=C12)C1OCCN1C(CCl)=O | C15H14ClNO2
